US07893090B2
Description 57: (RS)-1-(5-Fluoro-benzofuran-2-yl)-1-((RS)-4-methyl-piperazin-2-yl)-methanol
(RS)-2-[1-(5-Fluoro-benzofuran-2-yl)methanoyl]-4-methyl-piperazine-1-carboxylic acid benzyl ester, D50 (0.65 g, 1.6 mmol) in ethyl acetate (20 ml) and methanol (20 ml) was hydrogenated at NTP over 10% Pd—C (0.47 g, 50% w/w paste in water) for 3.5 h. The reaction mixture was filtered through Kieselguhr, washing well with methanol and the filtrate evaporated to afford the title product (0.41 g, 90%).

reactant | (RS)-2-[1-(5-Fluoro-benzofuran-2-yl)methanoyl]-4-methyl-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C)C(=O)C=1OC2=C(C1)C=C(C=C2)F | C22H21FN2O4
reactant | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 0.47 g | [Pd] | Pd
product | (RS)-1-(5-Fluoro-benzofuran-2-yl)-1-((RS)-4-methyl-piperazin-2-yl)-methanol | 0.41 g, 90% | FC=1C=CC2=C(C=C(O2)C(O)C2NCCN(C2)C)C1 | C14H17FN2O2
